US07067658B2
Trifluoro-methanesulfonic acid 4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl ester (0.5 g, 1.2 mmol), prepared substantially as described in Part C of Example 19a, and (R)-1-methoxymethyl-propylamine.HCl (0.34 g, 2.4 mmol) were treated substantially as described in Part C of Example 19a to produce 0.16 g (37%) of crude (R)-[4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine.

reactant | Trifluoro-methanesulfonic acid 4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl ester | 1.2 mmol, 0.5 g | FC=1C(=CC(=C(C1)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C)OC | C14H10F4N2O6S
reactant | (R)-1-methoxymethyl-propylamine | COC[C@@H](CC)N | C5H13NO
reactant | HCl | 2.4 mmol, 0.34 g | Cl | ClH
product | (R)-[4-(5-fluoro-4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine | 0.16 g, 37% | FC=1C(=CC(=C(C1)C1=C(C(=NC=C1)N[C@H](CC)COC)[N+](=O)[O-])C)OC | C18H22FN3O4
